US04400198
2.2 g Lithium metal was dissolved in 200 ml of liquid ammonia containing a trace of ferric nitrate, and 21 g (23.5 ml) of ethyl acetate was added. The mixture was stirred for two minutes and 2-formylbut-1-ene (19 g) in diethyl ether (60 ml) was added over 10 minutes at the reflux temperature of the mixture. Stirring was continued for a further 30 minutes, a slight excess of ammonium chloride was added to the reaction mixture and the ammonia was evaporated off. The residue was extracted with diethyl ether, was washed with dilute hydrochloric acid and then with brine, was dried, was evaporated and was distilled at 110°-120° C./10 mm Hg to give 9.2 g (24%) of 2-ethyl-3-hydroxy-4-ethoxycarbonylbut-1-ene (approximately 90% pure).

reactant | Lithium | 2.2 g | [Li] | Li
reactant | ethyl acetate | 23.5 ml, 21 g | C(C)(=O)OCC | C4H8O2
reactant | 2-formylbut-1-ene | 19 g | C(=O)C(=C)CC | C5H8O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ammonia | N | H3N
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | 2-ethyl-3-hydroxy-4-ethoxycarbonylbut-1-ene | 9.2 g | C(C)C(=C)C(CC(=O)OCC)O | C9H16O3
